US06727264B1
3,4-DIFLUORO-N-(4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}BUTYL)BENZAMIDE:
Prepared by Procedure Q2 (THF/DCM, 1:3) and Scheme AT using N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 3,4-difluorobenzoyl chloride: ESMS m/e: 458.0 (M+H)+.

reactant | N-{3-[1-(4-aminobutyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C19H31N3O
reactant | 3,4-difluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
solvent | THF DCM | C1CCOC1.C(Cl)Cl
product | 3,4-DIFLUORO-N-(4-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}BUTYL)BENZAMIDE | FC=1C=C(C(=O)NCCCCN2CCC(CC2)C2=CC(=CC=C2)NC(C(C)C)=O)C=CC1F | C26H33F2N3O2
